US07235537B2
Step I: 6-(4-Bromo-2-chloro-phenylamino)-7-chloro-3-methyl-3H-benzoimidazole-5-carboxylic acid methyl ester 10ee
6-(4-Bromo-2-chloro-phenylamino)-7-chloro-3H-benzoimidazole-5-carboxylic acid methyl ester 10dd (0.141 g, 0.34 mmol), potassium carbonate (0.141 g, 1.02 mmol), and iodomethane (0.063 mL, 1.02 mmol) are dissolved in dimethylformamide (3 mL). After 20 hours, the reaction mixture is diluted with EtOAc and washed with water (3×), potassium carbonate, and brine. The organic layer is dried (Na2SO4) and concentrated to a brown oil. The N3 and N1 alkylated regioisomers are separated by flash chromatography (EtOAc). The recovery of the N3 alkylated regioisomer is 20.4 mg (28%). MS ESI (+) m/z 428, 430 (M+, Br pattern) detected.

reactant | 6-(4-Bromo-2-chloro-phenylamino)-7-chloro-3H-benzoimidazole-5-carboxylic acid methyl ester | 0.34 mmol, 0.141 g | COC(=O)C1=CC2=C(N=CN2)C(=C1NC1=C(C=C(C=C1)Br)Cl)Cl | C15H10BrCl2N3O2
reactant | potassium carbonate | 1.02 mmol, 0.141 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 1.02 mmol, 0.063 mL | IC | CH3I
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-(4-Bromo-2-chloro-phenylamino)-7-chloro-3-methyl-3H-benzoimidazole-5-carboxylic acid methyl ester | COC(=O)C1=CC2=C(N=CN2C)C(=C1NC1=C(C=C(C=C1)Br)Cl)Cl | C16H12BrCl2N3O2
